* NGSPICE file created from bgr_top.ext - technology: sky130A

.subckt sky130_asc_res_xhigh_po_2p85_1 Rin Rout VPWR VGND
X0 Rin a_2148_115# VGND sky130_fd_pr__res_xhigh_po w=2.85e+06u l=7.88e+06u
X1 Rout a_2148_115# VGND sky130_fd_pr__res_xhigh_po w=2.85e+06u l=7.88e+06u
.ends

.subckt sky130_asc_pfet_01v8_lvt_60 GATE SOURCE DRAIN VGND VPWR
X0 SOURCE GATE DRAIN VPWR sky130_fd_pr__pfet_01v8_lvt ad=5.6115e+13p pd=4.044e+08u as=5.79855e+13p ps=4.1788e+08u w=6.45e+06u l=2e+06u
X1 SOURCE GATE DRAIN VPWR sky130_fd_pr__pfet_01v8_lvt ad=0p pd=0u as=0p ps=0u w=6.45e+06u l=2e+06u
X2 SOURCE GATE DRAIN VPWR sky130_fd_pr__pfet_01v8_lvt ad=0p pd=0u as=0p ps=0u w=6.45e+06u l=2e+06u
X3 DRAIN GATE SOURCE VPWR sky130_fd_pr__pfet_01v8_lvt ad=0p pd=0u as=0p ps=0u w=6.45e+06u l=2e+06u
X4 DRAIN GATE SOURCE VPWR sky130_fd_pr__pfet_01v8_lvt ad=0p pd=0u as=0p ps=0u w=6.45e+06u l=2e+06u
X5 SOURCE GATE DRAIN VPWR sky130_fd_pr__pfet_01v8_lvt ad=0p pd=0u as=0p ps=0u w=6.45e+06u l=2e+06u
X6 DRAIN GATE SOURCE VPWR sky130_fd_pr__pfet_01v8_lvt ad=0p pd=0u as=0p ps=0u w=6.45e+06u l=2e+06u
X7 SOURCE GATE DRAIN VPWR sky130_fd_pr__pfet_01v8_lvt ad=0p pd=0u as=0p ps=0u w=6.45e+06u l=2e+06u
X8 DRAIN GATE SOURCE VPWR sky130_fd_pr__pfet_01v8_lvt ad=0p pd=0u as=0p ps=0u w=6.45e+06u l=2e+06u
X9 DRAIN GATE SOURCE VPWR sky130_fd_pr__pfet_01v8_lvt ad=0p pd=0u as=0p ps=0u w=6.45e+06u l=2e+06u
X10 SOURCE GATE DRAIN VPWR sky130_fd_pr__pfet_01v8_lvt ad=0p pd=0u as=0p ps=0u w=6.45e+06u l=2e+06u
X11 DRAIN GATE SOURCE VPWR sky130_fd_pr__pfet_01v8_lvt ad=0p pd=0u as=0p ps=0u w=6.45e+06u l=2e+06u
X12 SOURCE GATE DRAIN VPWR sky130_fd_pr__pfet_01v8_lvt ad=0p pd=0u as=0p ps=0u w=6.45e+06u l=2e+06u
X13 SOURCE GATE DRAIN VPWR sky130_fd_pr__pfet_01v8_lvt ad=0p pd=0u as=0p ps=0u w=6.45e+06u l=2e+06u
X14 DRAIN GATE SOURCE VPWR sky130_fd_pr__pfet_01v8_lvt ad=0p pd=0u as=0p ps=0u w=6.45e+06u l=2e+06u
X15 DRAIN GATE SOURCE VPWR sky130_fd_pr__pfet_01v8_lvt ad=0p pd=0u as=0p ps=0u w=6.45e+06u l=2e+06u
X16 SOURCE GATE DRAIN VPWR sky130_fd_pr__pfet_01v8_lvt ad=0p pd=0u as=0p ps=0u w=6.45e+06u l=2e+06u
X17 DRAIN GATE SOURCE VPWR sky130_fd_pr__pfet_01v8_lvt ad=0p pd=0u as=0p ps=0u w=6.45e+06u l=2e+06u
X18 SOURCE GATE DRAIN VPWR sky130_fd_pr__pfet_01v8_lvt ad=0p pd=0u as=0p ps=0u w=6.45e+06u l=2e+06u
X19 SOURCE GATE DRAIN VPWR sky130_fd_pr__pfet_01v8_lvt ad=0p pd=0u as=0p ps=0u w=6.45e+06u l=2e+06u
X20 DRAIN GATE SOURCE VPWR sky130_fd_pr__pfet_01v8_lvt ad=0p pd=0u as=0p ps=0u w=6.45e+06u l=2e+06u
X21 DRAIN GATE SOURCE VPWR sky130_fd_pr__pfet_01v8_lvt ad=0p pd=0u as=0p ps=0u w=6.45e+06u l=2e+06u
X22 SOURCE GATE DRAIN VPWR sky130_fd_pr__pfet_01v8_lvt ad=0p pd=0u as=0p ps=0u w=6.45e+06u l=2e+06u
X23 DRAIN GATE SOURCE VPWR sky130_fd_pr__pfet_01v8_lvt ad=0p pd=0u as=0p ps=0u w=6.45e+06u l=2e+06u
X24 DRAIN GATE SOURCE VPWR sky130_fd_pr__pfet_01v8_lvt ad=0p pd=0u as=0p ps=0u w=6.45e+06u l=2e+06u
X25 SOURCE GATE DRAIN VPWR sky130_fd_pr__pfet_01v8_lvt ad=0p pd=0u as=0p ps=0u w=6.45e+06u l=2e+06u
X26 SOURCE GATE DRAIN VPWR sky130_fd_pr__pfet_01v8_lvt ad=0p pd=0u as=0p ps=0u w=6.45e+06u l=2e+06u
X27 DRAIN GATE SOURCE VPWR sky130_fd_pr__pfet_01v8_lvt ad=0p pd=0u as=0p ps=0u w=6.45e+06u l=2e+06u
X28 DRAIN GATE SOURCE VPWR sky130_fd_pr__pfet_01v8_lvt ad=0p pd=0u as=0p ps=0u w=6.45e+06u l=2e+06u
X29 SOURCE GATE DRAIN VPWR sky130_fd_pr__pfet_01v8_lvt ad=0p pd=0u as=0p ps=0u w=6.45e+06u l=2e+06u
X30 DRAIN GATE SOURCE VPWR sky130_fd_pr__pfet_01v8_lvt ad=0p pd=0u as=0p ps=0u w=6.45e+06u l=2e+06u
X31 SOURCE GATE DRAIN VPWR sky130_fd_pr__pfet_01v8_lvt ad=0p pd=0u as=0p ps=0u w=6.45e+06u l=2e+06u
X32 DRAIN GATE SOURCE VPWR sky130_fd_pr__pfet_01v8_lvt ad=0p pd=0u as=0p ps=0u w=6.45e+06u l=2e+06u
X33 DRAIN GATE SOURCE VPWR sky130_fd_pr__pfet_01v8_lvt ad=0p pd=0u as=0p ps=0u w=6.45e+06u l=2e+06u
X34 SOURCE GATE DRAIN VPWR sky130_fd_pr__pfet_01v8_lvt ad=0p pd=0u as=0p ps=0u w=6.45e+06u l=2e+06u
X35 SOURCE GATE DRAIN VPWR sky130_fd_pr__pfet_01v8_lvt ad=0p pd=0u as=0p ps=0u w=6.45e+06u l=2e+06u
X36 DRAIN GATE SOURCE VPWR sky130_fd_pr__pfet_01v8_lvt ad=0p pd=0u as=0p ps=0u w=6.45e+06u l=2e+06u
X37 SOURCE GATE DRAIN VPWR sky130_fd_pr__pfet_01v8_lvt ad=0p pd=0u as=0p ps=0u w=6.45e+06u l=2e+06u
X38 DRAIN GATE SOURCE VPWR sky130_fd_pr__pfet_01v8_lvt ad=0p pd=0u as=0p ps=0u w=6.45e+06u l=2e+06u
X39 SOURCE GATE DRAIN VPWR sky130_fd_pr__pfet_01v8_lvt ad=0p pd=0u as=0p ps=0u w=6.45e+06u l=2e+06u
X40 DRAIN GATE SOURCE VPWR sky130_fd_pr__pfet_01v8_lvt ad=0p pd=0u as=0p ps=0u w=6.45e+06u l=2e+06u
X41 DRAIN GATE SOURCE VPWR sky130_fd_pr__pfet_01v8_lvt ad=0p pd=0u as=0p ps=0u w=6.45e+06u l=2e+06u
X42 SOURCE GATE DRAIN VPWR sky130_fd_pr__pfet_01v8_lvt ad=0p pd=0u as=0p ps=0u w=6.45e+06u l=2e+06u
X43 SOURCE GATE DRAIN VPWR sky130_fd_pr__pfet_01v8_lvt ad=0p pd=0u as=0p ps=0u w=6.45e+06u l=2e+06u
X44 DRAIN GATE SOURCE VPWR sky130_fd_pr__pfet_01v8_lvt ad=0p pd=0u as=0p ps=0u w=6.45e+06u l=2e+06u
X45 DRAIN GATE SOURCE VPWR sky130_fd_pr__pfet_01v8_lvt ad=0p pd=0u as=0p ps=0u w=6.45e+06u l=2e+06u
X46 SOURCE GATE DRAIN VPWR sky130_fd_pr__pfet_01v8_lvt ad=0p pd=0u as=0p ps=0u w=6.45e+06u l=2e+06u
X47 SOURCE GATE DRAIN VPWR sky130_fd_pr__pfet_01v8_lvt ad=0p pd=0u as=0p ps=0u w=6.45e+06u l=2e+06u
X48 SOURCE GATE DRAIN VPWR sky130_fd_pr__pfet_01v8_lvt ad=0p pd=0u as=0p ps=0u w=6.45e+06u l=2e+06u
X49 DRAIN GATE SOURCE VPWR sky130_fd_pr__pfet_01v8_lvt ad=0p pd=0u as=0p ps=0u w=6.45e+06u l=2e+06u
X50 DRAIN GATE SOURCE VPWR sky130_fd_pr__pfet_01v8_lvt ad=0p pd=0u as=0p ps=0u w=6.45e+06u l=2e+06u
X51 SOURCE GATE DRAIN VPWR sky130_fd_pr__pfet_01v8_lvt ad=0p pd=0u as=0p ps=0u w=6.45e+06u l=2e+06u
X52 SOURCE GATE DRAIN VPWR sky130_fd_pr__pfet_01v8_lvt ad=0p pd=0u as=0p ps=0u w=6.45e+06u l=2e+06u
X53 DRAIN GATE SOURCE VPWR sky130_fd_pr__pfet_01v8_lvt ad=0p pd=0u as=0p ps=0u w=6.45e+06u l=2e+06u
X54 DRAIN GATE SOURCE VPWR sky130_fd_pr__pfet_01v8_lvt ad=0p pd=0u as=0p ps=0u w=6.45e+06u l=2e+06u
X55 DRAIN GATE SOURCE VPWR sky130_fd_pr__pfet_01v8_lvt ad=0p pd=0u as=0p ps=0u w=6.45e+06u l=2e+06u
X56 SOURCE GATE DRAIN VPWR sky130_fd_pr__pfet_01v8_lvt ad=0p pd=0u as=0p ps=0u w=6.45e+06u l=2e+06u
X57 SOURCE GATE DRAIN VPWR sky130_fd_pr__pfet_01v8_lvt ad=0p pd=0u as=0p ps=0u w=6.45e+06u l=2e+06u
X58 SOURCE GATE DRAIN VPWR sky130_fd_pr__pfet_01v8_lvt ad=0p pd=0u as=0p ps=0u w=6.45e+06u l=2e+06u
X59 DRAIN GATE SOURCE VPWR sky130_fd_pr__pfet_01v8_lvt ad=0p pd=0u as=0p ps=0u w=6.45e+06u l=2e+06u
.ends

.subckt sky130_asc_pnp_05v5_W3p40L3p40_7 Emitter Base Collector VPWR VGND
X0 Collector Base Emitter sky130_fd_pr__pnp_05v5_W3p40L3p40
X1 Collector Base Emitter sky130_fd_pr__pnp_05v5_W3p40L3p40
X2 Collector Base Emitter sky130_fd_pr__pnp_05v5_W3p40L3p40
X3 Collector Base Emitter sky130_fd_pr__pnp_05v5_W3p40L3p40
X4 Collector Base Emitter sky130_fd_pr__pnp_05v5_W3p40L3p40
X5 Collector Base Emitter sky130_fd_pr__pnp_05v5_W3p40L3p40
X6 Collector Base Emitter sky130_fd_pr__pnp_05v5_W3p40L3p40
.ends

.subckt sky130_asc_res_xhigh_po_2p85_2 Rin Rout VPWR VGND
X0 Rout a_2723_115# VGND sky130_fd_pr__res_xhigh_po w=2.85e+06u l=1.075e+07u
X1 Rin a_2723_115# VGND sky130_fd_pr__res_xhigh_po w=2.85e+06u l=1.075e+07u
.ends

.subckt sky130_asc_pfet_01v8_lvt_12 GATE SOURCE DRAIN VGND VPWR
X0 SOURCE GATE DRAIN VPWR sky130_fd_pr__pfet_01v8_lvt ad=1.1223e+13p pd=8.088e+07u as=1.30935e+13p ps=9.436e+07u w=6.45e+06u l=2e+06u
X1 SOURCE GATE DRAIN VPWR sky130_fd_pr__pfet_01v8_lvt ad=0p pd=0u as=0p ps=0u w=6.45e+06u l=2e+06u
X2 DRAIN GATE SOURCE VPWR sky130_fd_pr__pfet_01v8_lvt ad=0p pd=0u as=0p ps=0u w=6.45e+06u l=2e+06u
X3 DRAIN GATE SOURCE VPWR sky130_fd_pr__pfet_01v8_lvt ad=0p pd=0u as=0p ps=0u w=6.45e+06u l=2e+06u
X4 SOURCE GATE DRAIN VPWR sky130_fd_pr__pfet_01v8_lvt ad=0p pd=0u as=0p ps=0u w=6.45e+06u l=2e+06u
X5 DRAIN GATE SOURCE VPWR sky130_fd_pr__pfet_01v8_lvt ad=0p pd=0u as=0p ps=0u w=6.45e+06u l=2e+06u
X6 DRAIN GATE SOURCE VPWR sky130_fd_pr__pfet_01v8_lvt ad=0p pd=0u as=0p ps=0u w=6.45e+06u l=2e+06u
X7 SOURCE GATE DRAIN VPWR sky130_fd_pr__pfet_01v8_lvt ad=0p pd=0u as=0p ps=0u w=6.45e+06u l=2e+06u
X8 SOURCE GATE DRAIN VPWR sky130_fd_pr__pfet_01v8_lvt ad=0p pd=0u as=0p ps=0u w=6.45e+06u l=2e+06u
X9 DRAIN GATE SOURCE VPWR sky130_fd_pr__pfet_01v8_lvt ad=0p pd=0u as=0p ps=0u w=6.45e+06u l=2e+06u
X10 DRAIN GATE SOURCE VPWR sky130_fd_pr__pfet_01v8_lvt ad=0p pd=0u as=0p ps=0u w=6.45e+06u l=2e+06u
X11 SOURCE GATE DRAIN VPWR sky130_fd_pr__pfet_01v8_lvt ad=0p pd=0u as=0p ps=0u w=6.45e+06u l=2e+06u
.ends

.subckt sky130_asc_nfet_01v8_lvt_9 GATE SOURCE DRAIN VPWR VGND
X0 SOURCE GATE DRAIN VGND sky130_fd_pr__nfet_01v8_lvt ad=5.8e+12p pd=4.29e+07u as=5.8e+12p ps=4.29e+07u w=4e+06u l=2e+06u
X1 DRAIN GATE SOURCE VGND sky130_fd_pr__nfet_01v8_lvt ad=0p pd=0u as=0p ps=0u w=4e+06u l=2e+06u
X2 SOURCE GATE DRAIN VGND sky130_fd_pr__nfet_01v8_lvt ad=0p pd=0u as=0p ps=0u w=4e+06u l=2e+06u
X3 DRAIN GATE SOURCE VGND sky130_fd_pr__nfet_01v8_lvt ad=0p pd=0u as=0p ps=0u w=4e+06u l=2e+06u
X4 SOURCE GATE DRAIN VGND sky130_fd_pr__nfet_01v8_lvt ad=0p pd=0u as=0p ps=0u w=4e+06u l=2e+06u
X5 DRAIN GATE SOURCE VGND sky130_fd_pr__nfet_01v8_lvt ad=0p pd=0u as=0p ps=0u w=4e+06u l=2e+06u
X6 SOURCE GATE DRAIN VGND sky130_fd_pr__nfet_01v8_lvt ad=0p pd=0u as=0p ps=0u w=4e+06u l=2e+06u
X7 SOURCE GATE DRAIN VGND sky130_fd_pr__nfet_01v8_lvt ad=0p pd=0u as=0p ps=0u w=4e+06u l=2e+06u
X8 DRAIN GATE SOURCE VGND sky130_fd_pr__nfet_01v8_lvt ad=0p pd=0u as=0p ps=0u w=4e+06u l=2e+06u
.ends

.subckt sky130_asc_pfet_01v8_lvt_6 GATE SOURCE DRAIN VGND VPWR
X0 SOURCE GATE DRAIN VPWR sky130_fd_pr__pfet_01v8_lvt ad=5.6115e+12p pd=4.044e+07u as=7.482e+12p ps=5.392e+07u w=6.45e+06u l=2e+06u
X1 SOURCE GATE DRAIN VPWR sky130_fd_pr__pfet_01v8_lvt ad=0p pd=0u as=0p ps=0u w=6.45e+06u l=2e+06u
X2 DRAIN GATE SOURCE VPWR sky130_fd_pr__pfet_01v8_lvt ad=0p pd=0u as=0p ps=0u w=6.45e+06u l=2e+06u
X3 SOURCE GATE DRAIN VPWR sky130_fd_pr__pfet_01v8_lvt ad=0p pd=0u as=0p ps=0u w=6.45e+06u l=2e+06u
X4 DRAIN GATE SOURCE VPWR sky130_fd_pr__pfet_01v8_lvt ad=0p pd=0u as=0p ps=0u w=6.45e+06u l=2e+06u
X5 DRAIN GATE SOURCE VPWR sky130_fd_pr__pfet_01v8_lvt ad=0p pd=0u as=0p ps=0u w=6.45e+06u l=2e+06u
.ends

.subckt sky130_asc_pnp_05v5_W3p40L3p40_1 Emitter Base Collector VPWR VGND
X0 Collector Base Emitter sky130_fd_pr__pnp_05v5_W3p40L3p40
.ends

.subckt sky130_asc_cap_mim_m3_1 Cin Cout VPWR VGND
X0 Cout Cin sky130_fd_pr__cap_mim_m3_1 l=2e+06u w=2e+06u
X1 Cout Cin sky130_fd_pr__cap_mim_m3_1 l=2e+06u w=2e+06u
X2 Cout Cin sky130_fd_pr__cap_mim_m3_1 l=2e+06u w=2e+06u
X3 Cout Cin sky130_fd_pr__cap_mim_m3_1 l=2e+06u w=2e+06u
X4 Cout Cin sky130_fd_pr__cap_mim_m3_1 l=2e+06u w=2e+06u
X5 Cout Cin sky130_fd_pr__cap_mim_m3_1 l=2e+06u w=2e+06u
X6 Cout Cin sky130_fd_pr__cap_mim_m3_1 l=2e+06u w=2e+06u
X7 Cout Cin sky130_fd_pr__cap_mim_m3_1 l=2e+06u w=2e+06u
X8 Cout Cin sky130_fd_pr__cap_mim_m3_1 l=2e+06u w=2e+06u
X9 Cout Cin sky130_fd_pr__cap_mim_m3_1 l=2e+06u w=2e+06u
X10 Cout Cin sky130_fd_pr__cap_mim_m3_1 l=2e+06u w=2e+06u
X11 Cout Cin sky130_fd_pr__cap_mim_m3_1 l=2e+06u w=2e+06u
X12 Cout Cin sky130_fd_pr__cap_mim_m3_1 l=2e+06u w=2e+06u
X13 Cout Cin sky130_fd_pr__cap_mim_m3_1 l=2e+06u w=2e+06u
X14 Cout Cin sky130_fd_pr__cap_mim_m3_1 l=2e+06u w=2e+06u
X15 Cout Cin sky130_fd_pr__cap_mim_m3_1 l=2e+06u w=2e+06u
X16 Cout Cin sky130_fd_pr__cap_mim_m3_1 l=2e+06u w=2e+06u
X17 Cout Cin sky130_fd_pr__cap_mim_m3_1 l=2e+06u w=2e+06u
X18 Cout Cin sky130_fd_pr__cap_mim_m3_1 l=2e+06u w=2e+06u
X19 Cout Cin sky130_fd_pr__cap_mim_m3_1 l=2e+06u w=2e+06u
.ends

.subckt sky130_asc_pnp_05v5_W3p40L3p40_8 Emitter Base Collector VPWR VGND
X0 Collector Base Emitter sky130_fd_pr__pnp_05v5_W3p40L3p40
X1 Collector Base Emitter sky130_fd_pr__pnp_05v5_W3p40L3p40
X2 Collector Base Emitter sky130_fd_pr__pnp_05v5_W3p40L3p40
X3 Collector Base Emitter sky130_fd_pr__pnp_05v5_W3p40L3p40
X4 Collector Base Emitter sky130_fd_pr__pnp_05v5_W3p40L3p40
X5 Collector Base Emitter sky130_fd_pr__pnp_05v5_W3p40L3p40
X6 Collector Base Emitter sky130_fd_pr__pnp_05v5_W3p40L3p40
X7 Collector Base Emitter sky130_fd_pr__pnp_05v5_W3p40L3p40
.ends

.subckt sky130_asc_nfet_01v8_lvt_1 GATE SOURCE DRAIN VPWR VGND
X0 SOURCE GATE DRAIN VGND sky130_fd_pr__nfet_01v8_lvt ad=1.16e+12p pd=8.58e+06u as=1.16e+12p ps=8.58e+06u w=4e+06u l=2e+06u
.ends

.subckt bgr_top porst vbg VSS VDD
Xsky130_asc_res_xhigh_po_2p85_1_7 sky130_asc_res_xhigh_po_2p85_1_7/Rin sky130_asc_res_xhigh_po_2p85_1_6/Rin
+ VDD VSS sky130_asc_res_xhigh_po_2p85_1
Xsky130_asc_res_xhigh_po_2p85_1_8 vbg sky130_asc_res_xhigh_po_2p85_1_7/Rin VDD VSS
+ sky130_asc_res_xhigh_po_2p85_1
Xsky130_asc_res_xhigh_po_2p85_1_9 sky130_asc_res_xhigh_po_2p85_1_9/Rin sky130_asc_res_xhigh_po_2p85_2_0/Rin
+ VDD VSS sky130_asc_res_xhigh_po_2p85_1
Xsky130_asc_pfet_01v8_lvt_60_0 sky130_asc_cap_mim_m3_1_4/Cout VDD vbg VSS VDD sky130_asc_pfet_01v8_lvt_60
Xsky130_asc_pfet_01v8_lvt_60_1 sky130_asc_cap_mim_m3_1_4/Cout VDD sky130_asc_nfet_01v8_lvt_9_2/GATE
+ VSS VDD sky130_asc_pfet_01v8_lvt_60
Xsky130_asc_pfet_01v8_lvt_60_2 sky130_asc_cap_mim_m3_1_4/Cout VDD sky130_asc_cap_mim_m3_1_9/Cin
+ VSS VDD sky130_asc_pfet_01v8_lvt_60
Xsky130_asc_res_xhigh_po_2p85_1_30 sky130_asc_cap_mim_m3_1_9/Cin sky130_asc_res_xhigh_po_2p85_1_29/Rin
+ VDD VSS sky130_asc_res_xhigh_po_2p85_1
Xsky130_asc_res_xhigh_po_2p85_1_20 sky130_asc_nfet_01v8_lvt_9_2/GATE sky130_asc_res_xhigh_po_2p85_1_19/Rin
+ VDD VSS sky130_asc_res_xhigh_po_2p85_1
Xsky130_asc_pnp_05v5_W3p40L3p40_7_0 sky130_asc_res_xhigh_po_2p85_1_19/Rout VSS VSS
+ VDD VSS sky130_asc_pnp_05v5_W3p40L3p40_7
Xsky130_asc_res_xhigh_po_2p85_1_21 sky130_asc_res_xhigh_po_2p85_1_21/Rin sky130_asc_res_xhigh_po_2p85_2_1/Rin
+ VDD VSS sky130_asc_res_xhigh_po_2p85_1
Xsky130_asc_res_xhigh_po_2p85_1_10 sky130_asc_res_xhigh_po_2p85_1_10/Rin sky130_asc_res_xhigh_po_2p85_1_9/Rin
+ VDD VSS sky130_asc_res_xhigh_po_2p85_1
Xsky130_asc_res_xhigh_po_2p85_2_0 sky130_asc_res_xhigh_po_2p85_2_0/Rin VSS VDD VSS
+ sky130_asc_res_xhigh_po_2p85_2
Xsky130_asc_res_xhigh_po_2p85_1_22 sky130_asc_res_xhigh_po_2p85_1_22/Rin sky130_asc_res_xhigh_po_2p85_1_21/Rin
+ VDD VSS sky130_asc_res_xhigh_po_2p85_1
Xsky130_asc_res_xhigh_po_2p85_1_11 sky130_asc_res_xhigh_po_2p85_1_11/Rin sky130_asc_res_xhigh_po_2p85_1_10/Rin
+ VDD VSS sky130_asc_res_xhigh_po_2p85_1
Xsky130_asc_res_xhigh_po_2p85_2_1 sky130_asc_res_xhigh_po_2p85_2_1/Rin VSS VDD VSS
+ sky130_asc_res_xhigh_po_2p85_2
Xsky130_asc_res_xhigh_po_2p85_1_23 sky130_asc_res_xhigh_po_2p85_1_23/Rin sky130_asc_res_xhigh_po_2p85_1_22/Rin
+ VDD VSS sky130_asc_res_xhigh_po_2p85_1
Xsky130_asc_res_xhigh_po_2p85_1_12 sky130_asc_res_xhigh_po_2p85_1_12/Rin sky130_asc_res_xhigh_po_2p85_1_11/Rin
+ VDD VSS sky130_asc_res_xhigh_po_2p85_1
Xsky130_asc_res_xhigh_po_2p85_1_24 sky130_asc_res_xhigh_po_2p85_1_24/Rin sky130_asc_res_xhigh_po_2p85_1_23/Rin
+ VDD VSS sky130_asc_res_xhigh_po_2p85_1
Xsky130_asc_res_xhigh_po_2p85_1_13 sky130_asc_res_xhigh_po_2p85_1_13/Rin sky130_asc_res_xhigh_po_2p85_1_12/Rin
+ VDD VSS sky130_asc_res_xhigh_po_2p85_1
Xsky130_asc_pfet_01v8_lvt_12_0 VDD VDD sky130_asc_cap_mim_m3_1_9/Cin VSS VDD sky130_asc_pfet_01v8_lvt_12
Xsky130_asc_res_xhigh_po_2p85_1_25 sky130_asc_res_xhigh_po_2p85_1_25/Rin sky130_asc_res_xhigh_po_2p85_1_24/Rin
+ VDD VSS sky130_asc_res_xhigh_po_2p85_1
Xsky130_asc_res_xhigh_po_2p85_1_14 sky130_asc_res_xhigh_po_2p85_1_14/Rin sky130_asc_res_xhigh_po_2p85_1_13/Rin
+ VDD VSS sky130_asc_res_xhigh_po_2p85_1
Xsky130_asc_pfet_01v8_lvt_12_1 sky130_asc_cap_mim_m3_1_4/Cout VDD sky130_asc_nfet_01v8_lvt_1_1/GATE
+ VSS VDD sky130_asc_pfet_01v8_lvt_12
Xsky130_asc_res_xhigh_po_2p85_1_26 sky130_asc_res_xhigh_po_2p85_1_26/Rin sky130_asc_res_xhigh_po_2p85_1_25/Rin
+ VDD VSS sky130_asc_res_xhigh_po_2p85_1
Xsky130_asc_res_xhigh_po_2p85_1_15 sky130_asc_res_xhigh_po_2p85_1_15/Rin sky130_asc_res_xhigh_po_2p85_1_14/Rin
+ VDD VSS sky130_asc_res_xhigh_po_2p85_1
Xsky130_asc_res_xhigh_po_2p85_1_27 sky130_asc_res_xhigh_po_2p85_1_27/Rin sky130_asc_res_xhigh_po_2p85_1_26/Rin
+ VDD VSS sky130_asc_res_xhigh_po_2p85_1
Xsky130_asc_res_xhigh_po_2p85_1_16 sky130_asc_res_xhigh_po_2p85_1_16/Rin sky130_asc_res_xhigh_po_2p85_1_15/Rin
+ VDD VSS sky130_asc_res_xhigh_po_2p85_1
Xsky130_asc_res_xhigh_po_2p85_1_28 sky130_asc_res_xhigh_po_2p85_1_28/Rin sky130_asc_res_xhigh_po_2p85_1_27/Rin
+ VDD VSS sky130_asc_res_xhigh_po_2p85_1
Xsky130_asc_res_xhigh_po_2p85_1_17 sky130_asc_res_xhigh_po_2p85_1_17/Rin sky130_asc_res_xhigh_po_2p85_1_16/Rin
+ VDD VSS sky130_asc_res_xhigh_po_2p85_1
Xsky130_asc_nfet_01v8_lvt_9_0 porst VSS sky130_asc_cap_mim_m3_1_4/Cout VDD VSS sky130_asc_nfet_01v8_lvt_9
Xsky130_asc_res_xhigh_po_2p85_1_18 sky130_asc_nfet_01v8_lvt_9_2/GATE sky130_asc_res_xhigh_po_2p85_1_17/Rin
+ VDD VSS sky130_asc_res_xhigh_po_2p85_1
Xsky130_asc_res_xhigh_po_2p85_1_29 sky130_asc_res_xhigh_po_2p85_1_29/Rin sky130_asc_res_xhigh_po_2p85_1_28/Rin
+ VDD VSS sky130_asc_res_xhigh_po_2p85_1
Xsky130_asc_pfet_01v8_lvt_6_0 sky130_asc_pfet_01v8_lvt_6_1/GATE VDD sky130_asc_cap_mim_m3_1_4/Cout
+ VSS VDD sky130_asc_pfet_01v8_lvt_6
Xsky130_asc_nfet_01v8_lvt_9_1 sky130_asc_cap_mim_m3_1_9/Cin sky130_asc_nfet_01v8_lvt_1_1/DRAIN
+ sky130_asc_cap_mim_m3_1_4/Cout VDD VSS sky130_asc_nfet_01v8_lvt_9
Xsky130_asc_res_xhigh_po_2p85_1_19 sky130_asc_res_xhigh_po_2p85_1_19/Rin sky130_asc_res_xhigh_po_2p85_1_19/Rout
+ VDD VSS sky130_asc_res_xhigh_po_2p85_1
Xsky130_asc_pfet_01v8_lvt_6_1 sky130_asc_pfet_01v8_lvt_6_1/GATE VDD sky130_asc_pfet_01v8_lvt_6_1/GATE
+ VSS VDD sky130_asc_pfet_01v8_lvt_6
Xsky130_asc_pnp_05v5_W3p40L3p40_1_0 sky130_asc_cap_mim_m3_1_9/Cin VSS VSS VDD VSS
+ sky130_asc_pnp_05v5_W3p40L3p40_1
Xsky130_asc_nfet_01v8_lvt_9_2 sky130_asc_nfet_01v8_lvt_9_2/GATE sky130_asc_nfet_01v8_lvt_1_1/DRAIN
+ sky130_asc_pfet_01v8_lvt_6_1/GATE VDD VSS sky130_asc_nfet_01v8_lvt_9
Xsky130_asc_cap_mim_m3_1_0 VDD sky130_asc_cap_mim_m3_1_4/Cout VDD VSS sky130_asc_cap_mim_m3_1
Xsky130_asc_cap_mim_m3_1_1 VDD sky130_asc_cap_mim_m3_1_4/Cout VDD VSS sky130_asc_cap_mim_m3_1
Xsky130_asc_pnp_05v5_W3p40L3p40_8_0 sky130_asc_res_xhigh_po_2p85_1_19/Rout VSS VSS
+ VDD VSS sky130_asc_pnp_05v5_W3p40L3p40_8
Xsky130_asc_cap_mim_m3_1_2 VDD sky130_asc_cap_mim_m3_1_4/Cout VDD VSS sky130_asc_cap_mim_m3_1
Xsky130_asc_pnp_05v5_W3p40L3p40_8_1 sky130_asc_res_xhigh_po_2p85_1_19/Rout VSS VSS
+ VDD VSS sky130_asc_pnp_05v5_W3p40L3p40_8
Xsky130_asc_cap_mim_m3_1_3 VDD sky130_asc_cap_mim_m3_1_4/Cout VDD VSS sky130_asc_cap_mim_m3_1
Xsky130_asc_pnp_05v5_W3p40L3p40_8_2 sky130_asc_res_xhigh_po_2p85_1_19/Rout VSS VSS
+ VDD VSS sky130_asc_pnp_05v5_W3p40L3p40_8
Xsky130_asc_cap_mim_m3_1_4 VDD sky130_asc_cap_mim_m3_1_4/Cout VDD VSS sky130_asc_cap_mim_m3_1
Xsky130_asc_pnp_05v5_W3p40L3p40_8_3 sky130_asc_res_xhigh_po_2p85_1_19/Rout VSS VSS
+ VDD VSS sky130_asc_pnp_05v5_W3p40L3p40_8
Xsky130_asc_cap_mim_m3_1_5 sky130_asc_cap_mim_m3_1_9/Cin VSS VDD VSS sky130_asc_cap_mim_m3_1
Xsky130_asc_res_xhigh_po_2p85_1_0 sky130_asc_res_xhigh_po_2p85_1_0/Rin VSS VDD VSS
+ sky130_asc_res_xhigh_po_2p85_1
Xsky130_asc_cap_mim_m3_1_6 sky130_asc_cap_mim_m3_1_9/Cin VSS VDD VSS sky130_asc_cap_mim_m3_1
Xsky130_asc_nfet_01v8_lvt_1_0 sky130_asc_nfet_01v8_lvt_1_1/GATE VSS sky130_asc_nfet_01v8_lvt_1_1/GATE
+ VDD VSS sky130_asc_nfet_01v8_lvt_1
Xsky130_asc_res_xhigh_po_2p85_1_1 sky130_asc_res_xhigh_po_2p85_1_1/Rin sky130_asc_res_xhigh_po_2p85_1_0/Rin
+ VDD VSS sky130_asc_res_xhigh_po_2p85_1
Xsky130_asc_cap_mim_m3_1_7 sky130_asc_cap_mim_m3_1_9/Cin VSS VDD VSS sky130_asc_cap_mim_m3_1
Xsky130_asc_nfet_01v8_lvt_1_1 sky130_asc_nfet_01v8_lvt_1_1/GATE VSS sky130_asc_nfet_01v8_lvt_1_1/DRAIN
+ VDD VSS sky130_asc_nfet_01v8_lvt_1
Xsky130_asc_res_xhigh_po_2p85_1_2 sky130_asc_res_xhigh_po_2p85_1_2/Rin sky130_asc_res_xhigh_po_2p85_1_1/Rin
+ VDD VSS sky130_asc_res_xhigh_po_2p85_1
Xsky130_asc_cap_mim_m3_1_8 sky130_asc_cap_mim_m3_1_9/Cin VSS VDD VSS sky130_asc_cap_mim_m3_1
Xsky130_asc_res_xhigh_po_2p85_1_3 sky130_asc_res_xhigh_po_2p85_1_3/Rin sky130_asc_res_xhigh_po_2p85_1_2/Rin
+ VDD VSS sky130_asc_res_xhigh_po_2p85_1
Xsky130_asc_cap_mim_m3_1_9 sky130_asc_cap_mim_m3_1_9/Cin VSS VDD VSS sky130_asc_cap_mim_m3_1
Xsky130_asc_res_xhigh_po_2p85_1_4 sky130_asc_res_xhigh_po_2p85_1_4/Rin sky130_asc_res_xhigh_po_2p85_1_3/Rin
+ VDD VSS sky130_asc_res_xhigh_po_2p85_1
Xsky130_asc_res_xhigh_po_2p85_1_5 sky130_asc_res_xhigh_po_2p85_1_5/Rin sky130_asc_res_xhigh_po_2p85_1_4/Rin
+ VDD VSS sky130_asc_res_xhigh_po_2p85_1
Xsky130_asc_res_xhigh_po_2p85_1_6 sky130_asc_res_xhigh_po_2p85_1_6/Rin sky130_asc_res_xhigh_po_2p85_1_5/Rin
+ VDD VSS sky130_asc_res_xhigh_po_2p85_1
.ends

